US05256675
A mixture of 2-acetylamino-5-(2-imidazolylthio)thiazole (1.8 g) in a mixture of concentrated hydrochloric acid (10 ml) and ethanol (50 ml) was refluxed for 5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using sodium bicarbonate with cooling. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-5-(2-imidazolylthio)thiazole (0.35 g). The filtrate was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1), washed with aqueous saturated sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 100 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-5-(2-imidazolylthio)thiazole (0.55 g). Total amount of 2-amino-5-(2-imidazolylthio)thiazole was 0.90 g (yield: 60.4%). mp: 209°-211° C. (dec.) IR (Nujol): 3450, 3300, 1630, 1520, 1315 cm-1

reactant | 2-acetylamino-5-(2-imidazolylthio)thiazole | 1.8 g | C(C)(=O)NC=1SC(=CN1)SC=1NC=CN1 | C8H8N4OS2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-5-(2-imidazolylthio)thiazole | 0.35 g | NC=1SC(=CN1)SC=1NC=CN1 | C6H6N4S2
